US05239083
4-{2-[3-[1-(α-methylbenzyl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid (Compound 38)
111 mg of compound 38 was obtained in a similar manner to those described in the Examples 1 and 2 using 393 mg of ethyl 4-(2-aminophenoxy)butyrate and 268 mg of 3-[1-(α-methylbenzyl)indol-5-yl]isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 393 mg | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-[1-(α-methylbenzyl)indol-5-yl]isocrotonic acid | 268 mg | CC(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)O)/C | C20H19NO2
product | 4-{2-[3-[1-(α-methylbenzyl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid | CC(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)NC1=C(OCCCC(=O)O)C=CC=C1)/C | C30H30N2O4
